US04758670
3.0 g of 2-tert.-butyl-2-[(1H-1,2,4-triazol-1-yl)fluoromethyl]-oxirane, 1.7 g of 4-fluorophenol and 0.3 g of potassium p-fluorophenate in 10 ml of diethylene glycol dimethyl ether are stirred at 140° C. for 5 hours. After cooling, the mixture is taken up in ice water and extracted with ethyl acetate. The combined organic phases are washed with water, saturated sodium chloride solution and 2N sodium hydroxide solution and again with saturated sodium chloride solution, dried over sodium sulfate and evaporated. Crystallisation from a 1:4 ether/hexane mixture gives 2.3 g of 1-(4-fluorophenoxy)-2-tert.-butyl-2-hydroxy-3-fluoro-3-(1H-1,2,4-triazol-1-yl)-propane, melting point 89°-90° C.

reactant | 2-tert.-butyl-2-[(1H-1,2,4-triazol-1-yl)fluoromethyl]-oxirane | 3.0 g | C(C)(C)(C)C1(OC1)C(F)N1N=CN=C1 | C9H14FN3O
reactant | 4-fluorophenol | 1.7 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium | 0.3 g | [K] | K
solvent | diethylene glycol dimethyl ether | 10 ml | COCCOCCOC | C6H14O3
product | 1-(4-fluorophenoxy)-2-tert.-butyl-2-hydroxy-3-fluoro-3-(1H-1,2,4-triazol-1-yl)-propane | 2.3 g | FC1=CC=C(OCC(C(N2N=CN=C2)F)(O)C(C)(C)C)C=C1 | C15H19F2N3O2
